US07977358B2
B] [5-(3-bromo-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-(3-diethylamino-pyrrolidin-1-yl)-methanone
In analogy to the procedure described in example 12D], 5-(3-bromo-phenyl)-1,4-dimethyl-1H-pyrazole-3-carboxylic acid and 3-(diethylamino)pyrrolidine gave the title compound in 94% yield as white needles. MS: 419.2 (MH+, 1 Br).

reactant | 5-(3-bromo-phenyl)-1,4-dimethyl-1H-pyrazole-3-carboxylic acid | BrC=1C=C(C=CC1)C1=C(C(=NN1C)C(=O)O)C | C12H11BrN2O2
reactant | 3-(diethylamino)pyrrolidine | C(C)N(C1CNCC1)CC | C8H18N2
product | [5-(3-bromo-phenyl)-1,4-dimethyl-1H-pyrazol-3-yl]-(3-diethylamino-pyrrolidin-1-yl)-methanone | 94% yield | BrC=1C=C(C=CC1)C1=C(C(=NN1C)C(=O)N1CC(CC1)N(CC)CC)C | C20H27BrN4O
